US07981874B2
{[4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-phenyl]-fluoro-methyl}-phosphonic acid dimethyl ester.
4-[(Dimethoxy-phosphoryl)-fluoro-methyl]-benzoic acid (52 mg, 0.198 mmol), (2-amino-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester (69 mg, 0.238 mmol), EDC (57 mg, 0.298 mmol), HOBT (36 mg, 0.238 mmol), and DIPEA (77 mg, 0.595 mmol) were combined and diluted with DMF (0.79 mL). The resulting mixture was stirred at ambient temperature for 18 hours. The reaction mixture was purified directly by HPLC (20-85% MeCN in water w/0.025% TFA). Pure fractions were combined and concentrated in vacuo. The residue was diluted with 10:1 DCM:TFA and stirred at ambient temperature. After 2 hours the deprotection was complete and the mixture was concentrated in vacuo to give the title compound: 1H NMR (DMSO-d6, 600 MHz) δ 9.87 (br-s, 1H), 8.05 (d, J=8.4 Hz, 2H), 7.56 (d, J=7.8 Hz, 2H), 7.48 (s, 1H), 7.37 (d, J=5.0 Hz, 1H), 7.32 (d, J=8.4 Hz, 1H), 7.24-7.27 (m, 1H), 7.04 (dd, J=3.6 Hz, J=5.0 Hz, 1H), 6.86 (d, J=8.4 Hz, 1H), 6.33 (dd, J=8.4 Hz, J=43.8 Hz, 1H), 3.64-3.71 (m, 6H). MS: cal'd 435 (MH+), exp 435 (MH+)

reactant | 4-[(Dimethoxy-phosphoryl)-fluoro-methyl]-benzoic acid | 0.198 mmol, 52 mg | COP(=O)(OC)C(C1=CC=C(C(=O)O)C=C1)F | C10H12FO5P
reactant | (2-amino-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester | 0.238 mmol, 69 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1SC=CC1)N)=O | C15H18N2O2S
reactant | EDC | 0.298 mmol, 57 mg
reactant | HOBT | 0.238 mmol, 36 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.595 mmol, 77 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.79 mL | CN(C)C=O | C3H7NO
product | {[4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-phenyl]-fluoro-methyl}-phosphonic acid dimethyl ester | COP(OC)(=O)C(F)C1=CC=C(C=C1)C(NC1=C(C=CC(=C1)C=1SC=CC1)N)=O | C20H20FN2O4PS
